US07855297B2
By the reaction and treatment in the same manner as in Example 6 using N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.49 g) and 1-methanesulfonyloxy-3-(4-methoxyphenyl)propane (0.40 g) as starting materials, N-(4-isopropylphenyl)-N-[3-(4-methoxyphenyl)propyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.41 g) was obtained.

reactant | N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.49 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCCC2=CC=C(C=C12)OC | C21H25NO2
reactant | 1-methanesulfonyloxy-3-(4-methoxyphenyl)propane | 0.40 g | CS(=O)(=O)OCCCC1=CC=C(C=C1)OC | C11H16O4S
product | N-(4-isopropylphenyl)-N-[3-(4-methoxyphenyl)propyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.41 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CCCC1=CC=C(C=C1)OC | C31H37NO3
